US07576122B2
N-Butyl-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-propylacetamide
Dissolve a mixture of 17 mg [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid from the Step B Example 1 and 18.5 mg HOBt in 1 mL dry DMF. Add 13.6 μL N-propylbutylamine followed by 23.0 mg EDC and 35 μL DIEA. This solution was heated at 40° C. for 2 hours. It was purified directly on RP-HPLC using 65-100% MeCN gradient. The fractions containing pure product were pooled and lyophilized to give the title compound. LC-MS: 4.31 min. (m/Z=304.2, 388.2, 410.2).

reactant | [2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]acetic acid | 17 mg | CC(C(=O)C=1OC2=C(C1CC(=O)O)C=C(C=C2)OC)(C)C | C16H18O5
reactant | HOBt | 18.5 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N-propylbutylamine | 13.6 μL | C(CC)NCCCC | C7H17N
reactant | DIEA | 35 μL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
solvent | EDC | 23.0 mg
product | N-Butyl-2-[2-(2,2-dimethylpropanoyl)-5-methoxy-1-benzofuran-3-yl]-N-propylacetamide | C(CCC)N(C(CC1=C(OC2=C1C=C(C=C2)OC)C(C(C)(C)C)=O)=O)CCC | C23H33NO4
